US07745475B2
3-Hydroxy-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(5-methyl-1,3-thiazol-2-yl)benzamide
Triethylamine (0.11 mL, 0.79 mmol) and triethylsilane (4.88 mL, 27.3 mmol) were added to palladium (11) acetate (56 mg, 9 mol %) in DCM (14 mL) under an atmosphere of argon. The reaction was stirred for 15 mins then 3-(benzyloxy)-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(5-methyl-1,3-thiazol-2-yl)benzamide (1.4 g, 2.73 mmol) in DCM (14 mL) added dropwise and stirred for a further 48 hours. The reaction was filtered through celite and the filtrate concentrated in vacuo to give a residue which was chromatographed on silica, eluting with a gradient of 50-100% ethyl acetate in isohexane, to give the desired compound (0.18 g).

reactant | Triethylamine | 0.79 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | triethylsilane | 27.3 mmol, 4.88 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | 3-(benzyloxy)-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(5-methyl-1,3-thiazol-2-yl)benzamide | 2.73 mmol, 1.4 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC=2SC(=CN2)C)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C | C27H36N2O4SSi
solvent | DCM | 14 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 14 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium (11) acetate | 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Hydroxy-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(5-methyl-1,3-thiazol-2-yl)benzamide | 0.18 g | OC=1C=C(C(=O)NC=2SC(=CN2)C)C=C(C1)O[C@H](CO)C | C14H16N2O4S
